* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.00013820462252219632
Fd1_1 0 s1 V1 0.006910231126109816
Gr1_1_1 0 s1 x1_a1 0 578582864.0885357
Gr2_re_1_1 0 s1 x2_re_a1 0 372886931.8473767
Gr2_im_1_1 0 s1 x2_im_a1 0 199215429.6328075
Gr3_re_1_1 0 s1 x3_re_a1 0 176221174.06686854
Gr3_im_1_1 0 s1 x3_im_a1 0 74405735.92841138
Gr4_re_1_1 0 s1 x4_re_a1 0 -9793195.702926887
Gr4_im_1_1 0 s1 x4_im_a1 0 -3733283.292954974
Gr5_re_1_1 0 s1 x5_re_a1 0 -31115994.666735567
Gr5_im_1_1 0 s1 x5_im_a1 0 -83744547.18971412
Gr6_re_1_1 0 s1 x6_re_a1 0 -342489.54089640273
Gr6_im_1_1 0 s1 x6_im_a1 0 21273018.16077543
Gr7_1_1 0 s1 x7_a1 0 2793886.982287198
Gr8_re_1_1 0 s1 x8_re_a1 0 104278522.51006866
Gr8_im_1_1 0 s1 x8_im_a1 0 -1042446914.5754915
Gr9_1_1 0 s1 x9_a1 0 -1089699242.1669996
Gd1_2 0 s1 p2 0 0.0007792503720915456
Fd1_2 0 s1 V2 0.03896251860457728
Gr1_1_2 0 s1 x1_a2 0 1169344915.0412211
Gr2_re_1_2 0 s1 x2_re_a2 0 2573717544.6903443
Gr2_im_1_2 0 s1 x2_im_a2 0 3677865346.903745
Gr3_re_1_2 0 s1 x3_re_a2 0 1294548947.57196
Gr3_im_1_2 0 s1 x3_im_a2 0 3488128728.415553
Gr4_re_1_2 0 s1 x4_re_a2 0 -98852105.00072357
Gr4_im_1_2 0 s1 x4_im_a2 0 -168209438.04654583
Gr5_re_1_2 0 s1 x5_re_a2 0 721897272.0933979
Gr5_im_1_2 0 s1 x5_im_a2 0 -1447132213.1765754
Gr6_re_1_2 0 s1 x6_re_a2 0 1254938177.047687
Gr6_im_1_2 0 s1 x6_im_a2 0 -4011096743.504861
Gr7_1_2 0 s1 x7_a2 0 29393005.472919866
Gr8_re_1_2 0 s1 x8_re_a2 0 -5505981754.795649
Gr8_im_1_2 0 s1 x8_im_a2 0 -7070335593.205308
Gr9_1_2 0 s1 x9_a2 0 -1382328159.5436816
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 7.655539148130948e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 7.013509195679879e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 15471069835.488356
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -15471069835.488356
Rp2_im_im_a1 0 x2_im_a1 7.013509195679879e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 3.703898229279886e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 14200873964.258144
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -14200873964.258144
Rp3_im_im_a1 0 x3_im_a1 3.703898229279886e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.296976649776731e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 12219819190.188028
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -12219819190.188028
Rp4_im_im_a1 0 x4_im_a1 1.296976649776731e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 8.012499514413647e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 13668597497.38928
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -13668597497.38928
Rp5_im_im_a1 0 x5_im_a1 8.012499514413647e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.9990569040809063e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 11155266008.165977
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -11155266008.165977
Rp6_im_im_a1 0 x6_im_a1 1.9990569040809063e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 8.894617381477157e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.4467373656487103e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 5761601760.540673
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -5761601760.540673
Rp8_im_im_a1 0 x8_im_a1 1.4467373656487103e-10
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 1.7417732522512078e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0007792503720915456
Fd2_1 0 s2 V1 0.03896251860457728
Gr1_2_1 0 s2 x1_a1 0 1169344915.0412211
Gr2_re_2_1 0 s2 x2_re_a1 0 2573717544.6903443
Gr2_im_2_1 0 s2 x2_im_a1 0 3677865346.903745
Gr3_re_2_1 0 s2 x3_re_a1 0 1294548947.57196
Gr3_im_2_1 0 s2 x3_im_a1 0 3488128728.415553
Gr4_re_2_1 0 s2 x4_re_a1 0 -98852105.00072357
Gr4_im_2_1 0 s2 x4_im_a1 0 -168209438.04654583
Gr5_re_2_1 0 s2 x5_re_a1 0 721897272.0933979
Gr5_im_2_1 0 s2 x5_im_a1 0 -1447132213.1765754
Gr6_re_2_1 0 s2 x6_re_a1 0 1254938177.047687
Gr6_im_2_1 0 s2 x6_im_a1 0 -4011096743.504861
Gr7_2_1 0 s2 x7_a1 0 29393005.472919866
Gr8_re_2_1 0 s2 x8_re_a1 0 -5505981754.795649
Gr8_im_2_1 0 s2 x8_im_a1 0 -7070335593.205308
Gr9_2_1 0 s2 x9_a1 0 -1382328159.5436816
Gd2_2 0 s2 p2 0 0.00014573417199028943
Fd2_2 0 s2 V2 0.007286708599514472
Gr1_2_2 0 s2 x1_a2 0 585714707.3366808
Gr2_re_2_2 0 s2 x2_re_a2 0 381571708.0138046
Gr2_im_2_2 0 s2 x2_im_a2 0 233563348.4742648
Gr3_re_2_2 0 s2 x3_re_a2 0 183314279.1820221
Gr3_im_2_2 0 s2 x3_im_a2 0 109048449.83074045
Gr4_re_2_2 0 s2 x4_re_a2 0 -10529522.333060673
Gr4_im_2_2 0 s2 x4_im_a2 0 -5437482.736467813
Gr5_re_2_2 0 s2 x5_re_a2 0 -22092020.54176481
Gr5_im_2_2 0 s2 x5_im_a2 0 -96053524.5576193
Gr6_re_2_2 0 s2 x6_re_a2 0 7068885.426782761
Gr6_im_2_2 0 s2 x6_im_a2 0 -23112298.02561959
Gr7_2_2 0 s2 x7_a2 0 3035058.1757215476
Gr8_re_2_2 0 s2 x8_re_a2 0 83130926.72670601
Gr8_im_2_2 0 s2 x8_im_a2 0 -1068480650.7523618
Gr9_2_2 0 s2 x9_a2 0 -1109998825.168567
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 7.655539148130948e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 7.013509195679879e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 15471069835.488356
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -15471069835.488356
Rp2_im_im_a2 0 x2_im_a2 7.013509195679879e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 3.703898229279886e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 14200873964.258144
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -14200873964.258144
Rp3_im_im_a2 0 x3_im_a2 3.703898229279886e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.296976649776731e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 12219819190.188028
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -12219819190.188028
Rp4_im_im_a2 0 x4_im_a2 1.296976649776731e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 8.012499514413647e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 13668597497.38928
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -13668597497.38928
Rp5_im_im_a2 0 x5_im_a2 8.012499514413647e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.9990569040809063e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 11155266008.165977
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -11155266008.165977
Rp6_im_im_a2 0 x6_im_a2 1.9990569040809063e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 8.894617381477157e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.4467373656487103e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 5761601760.540673
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -5761601760.540673
Rp8_im_im_a2 0 x8_im_a2 1.4467373656487103e-10
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 1.7417732522512078e-10
.ENDS s_equivalent
