* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.02000000448255755
Fd1_1 0 s1 V1 1.0000002241278776
Gr1_1_1 0 s1 x1_a1 0 -176029003638625.6
Gr2_re_1_1 0 s1 x2_re_a1 0 -884864247981701.2
Gr2_im_1_1 0 s1 x2_im_a1 0 447355866293908.56
Gr3_re_1_1 0 s1 x3_re_a1 0 6.533025114153593e+16
Gr3_im_1_1 0 s1 x3_im_a1 0 1.0686876018563348e+16
Gr4_re_1_1 0 s1 x4_re_a1 0 -2.5029352174612336e+17
Gr4_im_1_1 0 s1 x4_im_a1 0 -3.7070185065771064e+16
Gr5_re_1_1 0 s1 x5_re_a1 0 1.859360080040524e+17
Gr5_im_1_1 0 s1 x5_im_a1 0 3.2511248471261536e+16
Gd1_2 0 s1 p2 0 3.243862784311583e-09
Fd1_2 0 s1 V2 1.6219313921557915e-07
Gr1_1_2 0 s1 x1_a2 0 -21478964564.852077
Gr2_re_1_2 0 s1 x2_re_a2 0 -527473487164.2012
Gr2_im_1_2 0 s1 x2_im_a2 0 125103630893.22874
Gr3_re_1_2 0 s1 x3_re_a2 0 23429097102486.88
Gr3_im_1_2 0 s1 x3_im_a2 0 4618736621161.572
Gr4_re_1_2 0 s1 x4_re_a2 0 -93505218020490.11
Gr4_im_1_2 0 s1 x4_im_a2 0 -13964113323040.05
Gr5_re_1_2 0 s1 x5_re_a2 0 70614333866108.4
Gr5_im_1_2 0 s1 x5_im_a2 0 12155335444083.227
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.3341818549422906e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.770599119662884e-12
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 137795584999.90997
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -137795584999.90997
Rp2_im_im_a1 0 x2_im_a1 5.770599119662884e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 3.856624827062799e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 55322242905.95246
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -55322242905.95246
Rp3_im_im_a1 0 x3_im_a1 3.856624827062799e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.1891093536706428e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 30585009809.17934
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -30585009809.17934
Rp4_im_im_a1 0 x4_im_a1 1.1891093536706428e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 6.616671062265692e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 13286474656.717043
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -13286474656.717043
Rp5_im_im_a1 0 x5_im_a1 6.616671062265692e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 3.243862784311583e-09
Fd2_1 0 s2 V1 1.6219313921557915e-07
Gr1_2_1 0 s2 x1_a1 0 -21478921996.146328
Gr2_re_2_1 0 s2 x2_re_a1 0 -527472956116.18146
Gr2_im_2_1 0 s2 x2_im_a1 0 125103780844.61649
Gr3_re_2_1 0 s2 x3_re_a1 0 23429144043090.336
Gr3_im_2_1 0 s2 x3_im_a1 0 4618739079974.5
Gr4_re_2_1 0 s2 x4_re_a1 0 -93505372884830.16
Gr4_im_2_1 0 s2 x4_im_a1 0 -13964135487733.014
Gr5_re_2_1 0 s2 x5_re_a1 0 70614441237512.7
Gr5_im_2_1 0 s2 x5_im_a1 0 12155355488524.168
Gd2_2 0 s2 p2 0 0.02000000909099148
Fd2_2 0 s2 V2 1.0000004545495742
Gr1_2_2 0 s2 x1_a2 0 -240307984448037.62
Gr2_re_2_2 0 s2 x2_re_a2 0 -1659881067162588.0
Gr2_im_2_2 0 s2 x2_im_a2 0 245582872356073.56
Gr3_re_2_2 0 s2 x3_re_a2 0 300314452428035.56
Gr3_im_2_2 0 s2 x3_im_a2 0 7454230841728907.0
Gr4_re_2_2 0 s2 x4_re_a2 0 -3.6568957141098136e+16
Gr4_im_2_2 0 s2 x4_im_a2 0 -6510360953595966.0
Gr5_re_2_2 0 s2 x5_re_a2 0 3.8048606985178024e+16
Gr5_im_2_2 0 s2 x5_im_a2 0 4850449067629301.0
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.3341818549422906e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.770599119662884e-12
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 137795584999.90997
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -137795584999.90997
Rp2_im_im_a2 0 x2_im_a2 5.770599119662884e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 3.856624827062799e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 55322242905.95246
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -55322242905.95246
Rp3_im_im_a2 0 x3_im_a2 3.856624827062799e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.1891093536706428e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 30585009809.17934
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -30585009809.17934
Rp4_im_im_a2 0 x4_im_a2 1.1891093536706428e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 6.616671062265692e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 13286474656.717043
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -13286474656.717043
Rp5_im_im_a2 0 x5_im_a2 6.616671062265692e-10
.ENDS s_equivalent
